US06506799B1
STEP D (Synthesis of 2,2-Dimethyl-5-hydroxy-1(tetrahydropyranyloxy)hexane)
In a 250 ml flask equipped with a magnetical stirrer and reflux condenser were placed 6-bromo-1(tetrahydropyranyloxy)-2,2-dimethylhexane (10 g, 0.034 mol) and DMSO (50 ml), then the mixture was treated with K2CO3 (10 g 0.068 mol) in water (100 ml). The reaction mixture was heated under reflux for two days, then was allowed to cool to room temperature and quenched with water (150 ml). The solution was adjusted to pH 7 with 1M HCl and extracted with ether (3×100 ml). The organic layers combined were then washed with saturated NH4Cl (150 ml) and brine (150 ml), dried (MgSO4), and the solvent was removed under reduced pressure, to provide 6.63 g of the above-titled compound as a colorless liquid (85% yield). 1H NMR CDCl3, δ (ppm): 4.40-4.50 (m, 1H), 3.90-3.75 (m, 1H), 3.38 (t, J=6.8 Hz, 1H), 2.97 (d, J=9.3 Hz, 1H), 2.50 (brs, 1H, OH), 1.90-1.20 (m, 12H), 0.84 (s, 3H), 0.86 (s, 3H); 13C NMR CDCl3, δ (ppm): 99.0, 76.2, 62.3, 61.8, 38.8, 34.0, 33.4, 30.5, 25.4, 24.4, 24.3, 19.9, 19.3.

reactant | 6-bromo-1(tetrahydropyranyloxy)-2,2-dimethylhexane | 0.034 mol, 10 g | BrCCCCC(COC1OCCCC1)(C)C | C13H25BrO2
reactant | DMSO | 50 ml | CS(=O)C | C2H6OS
reactant | K2CO3 | 0.068 mol, 10 g | C(=O)([O-])[O-].[K+].[K+]
solvent | water | 100 ml | O | H2O
product | 2,2-Dimethyl-5-hydroxy-1(tetrahydropyranyloxy)hexane | 6.63 g, 85% yield | CC(COC1OCCCC1)(CCC(C)O)C | C13H26O3
